US06013792
Alternatively, to a solution of (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid (2.5 g, 5.82 mmol), HOBtH2O(0.89 g, 1 eq.) and O-benzyl hydroxylamine (2.2 mL, 3 eq.) in DMF (200 mL) at 0° C. was added EDCI (2.77 g, 2.5 eq.). The resulting mixture was then stirred overnight. DHF was removed by pump distillation at 65° C. To the residue was then added methanol (14 mL) followed by ether (140 mL). With stirring at 0° C., 0.5 N HCl (140 mL) was added, followed by petroleum ether (140 mL). The mixture was stirred at 0° C. for 15 minutes, then the white solid was suction filtered and subsequently washed with water (100 mL) followed by 1:1 ether/petroleum ether (100 mL). Drying under vacuum (P2O5) for 3 hours gave (3R,10S)-N-benzyloxy-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.0 13,18 ]-nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanamide as a white solid (2.7 g, 84.9%).

reactant | (3R,10S)-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanoic acid | 5.82 mmol, 2.5 g | CC(C[C@H](CC(=O)O)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)C | C25H35N3O4
reactant | O-benzyl hydroxylamine | 2.2 mL, 3 eq. | C(C1=CC=CC=C1)ON | C7H9NO
reactant | EDCI | 2.77 g, 2.5 eq. | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | (3R,10S)-N-benzyloxy-5-methyl-3-(9-oxo-1,8-diazatricyclo[10.6.1.0 13,18 ]-nonadeca-12(19),13(18),14,16-tetraen-10-ylcarbamoyl)hexanamide | 2.7 g, 84.9% | C(C1=CC=CC=C1)ONC(C[C@@H](CC(C)C)C(N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)=O)=O | C32H42N4O4
